US04168379
6-Benzyl-8-methyl-1,5-dihydro[1,3]dioxepino[5,6-c]pyridin-9-ol
A mixture of 8.4 g (40 millimoles) of 2-benzyl-4-methyl-5-ethoxyoxazole and 20 g (200 millimoles) of 4,7-dihydro-1,3-dioxepine is heated for 4 hours at 180° C. in an autoclave. Unconverted 4,7-dihydro-1,3-dioxepine is distilled off under reduced pressure. The residue is taken up in methylene chloride and extracted with 10% strength sodium hydroxide solution. On neutralizing the alkaline solution, 5.2 g of 6-benzyl-8-methyl-1,5-dihydro-[1,3]dioxepino[5,6-c]pyridin-9-ol precipitate and these are extracted with methylene chloride.

reactant | 2-benzyl-4-methyl-5-ethoxyoxazole | 40 millimoles, 8.4 g | C(C1=CC=CC=C1)C=1OC(=C(N1)C)OCC | C13H15NO2
reactant | 4,7-dihydro-1,3-dioxepine | 200 millimoles, 20 g | O1COCC=CC1 | C5H8O2
product | 6-Benzyl-8-methyl-1,5-dihydro[1,3]dioxepino[5,6-c]pyridin-9-ol | C(C1=CC=CC=C1)C1=NC(=C(C2=C1COCOC2)O)C | C16H17NO3
